US05563162
A solution of 4-chloro-2-ethyl-8-methoxyquinoline (4.0 g) in 48% hydrobromic acid (80 ml) was refluxed for 2 days. The mixture was adjusted to pH 12 with 28% ammonia solution. The precipitate was collected by vacuum filtration, and was washed with water and hexane to give 4-chloro-2-ethyl-8-hydroxyquinoline (3.13 g) as crystals.

reactant | 4-chloro-2-ethyl-8-methoxyquinoline | 4.0 g | ClC1=CC(=NC2=C(C=CC=C12)OC)CC | C12H12ClNO
reactant | ammonia | N | H3N
solvent | hydrobromic acid | 80 ml | Br | BrH
product | 4-chloro-2-ethyl-8-hydroxyquinoline | 3.13 g | ClC1=CC(=NC2=C(C=CC=C12)O)CC | C11H10ClNO
